US05834434
N-BOC-S-trityl-cysteine-4-amino-1-naphthoyl methionine methyl ester
N-BOC-S-trityl-Cys (0.31 g, 0.67 mmol) in dry THF (11.2 ml) was reacted with Et3N (0.10 ml) and IBCF (0.10 ml, 0.74 mmol) at -10° C. as described above. HCl.4-amino-1-naphthoyl methionine methyl ester (0.25 g, 0.67 mmol) in dry CH2Cl2 (3.5 ml) was added and the mixture was stirred overnight under nitrogen. The mixture was worked up as described for N-BOC-S-trityl-cysteine-4-aminobenzoyl methionine methyl ester in Example 1, and the crude material was chromatographed on silica gel using a 2:1 mixture of hexanes and ethyl acetate to give 0.20g (37.5 %) of pure product. 1H NMR (CDCl3) 1.48 (9 H, s), 2.10-2.20 (4 H, m), 2.30-2.37 (1 H, m), 2.63 (2 H, t, J=7.4), 2.74 (1 H, J=12.9 Hz, J=5.3 Hz), 2.90 (1 H, J=12.9 Hz, 6.2 Hz), 3.81 (3 H, s), 4.96-5.03 (2 H, m), 6.77 (1 H, d, J=8.0 Hz), 7.18-7.33 (11 H, m), 7.44-7.56 (7 H, m), 7.60 (1 H, d, J=7.7 Hz), 7.88 (1 H, d, J=8.0 Hz), 8.00 (1 H, d, J=7.1 Hz), 8.37 (1 H, d, J=8.4 Hz), 8.94 (1 H, br s); 13C NMR (CDCl3) 15.23, 26.52, 31.41, 31.50, 52.98, 53.31, 56.79, 68.15, 122.52, 123.54, 126.16, 126.99, 128.03, 128.39, 129.52, 132.30, 134.04, 135.24, 168.08, 172.38, 173.94.

reactant | Et3N | 0.10 ml | CCN(CC)CC | C6H15N
reactant | HCl | Cl | ClH
reactant | 4-amino-1-naphthoyl methionine methyl ester | 0.67 mmol, 0.25 g | COC([C@@H](NC(=O)C1=CC=C(C2=CC=CC=C12)N)CCSC)=O | C17H20N2O3S
reactant | N-BOC-S-trityl-cysteine 4-aminobenzoyl methionine methyl ester | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.COC([C@@H](NC(C1=CC=C(C=C1)N)=O)CCSC)=O
solvent | THF | 11.2 ml | C1CCOC1 | C4H8O
solvent | CH2Cl2 | 3.5 ml | C(Cl)Cl | CH2Cl2
product | N-BOC-S-trityl-cysteine 4-amino-1-naphthoyl methionine methyl ester | 0.20g, 37.5 % | C(=O)(OC(C)(C)C)N[C@@H](CSC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)O.COC([C@@H](NC(=O)C1=CC=C(C2=CC=CC=C12)N)CCSC)=O | InChI=1S/C27H29NO4S.C17H20N2O3S/c1-26(2,3)32-25(31)28-23(24(29)30)19-33-27(20-13-7-4-8-14-20,21-15-9-5-10-16-21)22-17-11-6-12-18-22;1-22-17(21)15(9-10-23-2)19-16(20)13-7-8-14(18)12-6-4-3-5-11(12)13/h4-18,23H,19H2,1-3H3,(H,28,31)(H,29,30);3-8,15H,9-10,18H2,1-2H3,(H,19,20)/t23-;15-/m00/s1
